US04226882
α,α'-Dithiobis[β-(2-furyl)acrylic acid]
Iodine is added to a solution of 100 g of potassium iodide in 500 ml of water to saturation. This saturated solution is added dropwise to a solution of α-mercapto-β-(2-furyl)acrylic acid in 500 ml of acetonitrile and 30 ml of water until the color of iodine persists. The crude product which precipitates is recrystallized from methanol. M.P. 215° C.

reactant | Iodine | II | I2
reactant | potassium iodide | 100 g | [I-].[K+]
reactant | α-mercapto-β-(2-furyl)acrylic acid | SC(C(=O)O)=CC=1OC=CC1 | C7H6O3S
solvent | water | 500 ml | O | H2O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | α,α'-Dithiobis[β-(2-furyl)acrylic acid] | O1C(=CC=C1)C=C(C(=O)O)SSC(C(=O)O)=CC=1OC=CC1 | C14H10O6S2
